US05273972
B. 2-(1-Piperidinylmethyl)-1-azabicyclo[2.2.2]octan-3-ol trans isomer
A solution of 2-(1-piperidinylmethyl)-1-azabicyclo-[2.2.2]octan-3-one (8.90 g, 40 mmoles) in absolute ethanol (40 ml) was treated dropwise with a solution of sodium borohydride (1.15 g, 30.4 mmoles) in absolute ethanol (40 ml). The solution was stirred at room temperature for 18 hours, concentrated in vacuo, and diluted with water (100 ml). The aqueous solution was treated with potassium carbonate and extracted with ether, and the combined organic extracts were dried (MgSO4) and concentrated in vacuo. The residual solid was recrystallized from acetonitrile to afford 3.32 g (37%) of the trans isomer as colorless crystals, mp 130°-131° C.

reactant | 2-(1-piperidinylmethyl)-1-azabicyclo-[2.2.2]octan-3-one | 40 mmoles, 8.90 g | N1(CCCCC1)CC1N2CCC(C1=O)CC2 | C13H22N2O
reactant | sodium borohydride | 30.4 mmoles, 1.15 g | [BH4-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(1-Piperidinylmethyl)-1-azabicyclo[2.2.2]octan-3-ol | N1(CCCCC1)CC1N2CCC(C1O)CC2 | C13H24N2O
